US04405552
EXAMPLE 53: 1-(2,6-DICHLORBENZOYL)-3-(6-(4-CHLOROPHENYL)-3-PYRIDYL)UREA
6-(4-Chlorophenyl)-3-pyridylamine (70 mg) was dissolved in 45 ml acetonitrile and treated with 2,6-dichlorobenzoyl isocyanate (0.25 gram) under nitrogen at room temperature. A precipitate formed almost immediately and after about 2 hours stirring, the solid was collected and recrystallized from ethanol, yield, 200 mg, m.p. 225°-229° C. The identity of the product was confirmed by NMR.

reactant | 6-(4-Chlorophenyl)-3-pyridylamine | 70 mg | ClC1=CC=C(C=C1)C1=CC=C(C=N1)N | C11H9ClN2
reactant | 2,6-dichlorobenzoyl isocyanate | 0.25 gram | ClC1=C(C(=O)N=C=O)C(=CC=C1)Cl | C8H3Cl2NO2
solvent | acetonitrile | 45 ml | C(C)#N | C2H3N
product | 1-(2,6-DICHLORBENZOYL)-3-(6-(4-CHLOROPHENYL)-3-PYRIDYL)UREA | ClC1=C(C(=O)NC(=O)NC=2C=NC(=CC2)C2=CC=C(C=C2)Cl)C(=CC=C1)Cl | C19H12Cl3N3O2
